US07399775B2
2-[(tert-Butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-methyl-1H-benzimidazole
An acetonitrile (3 ml) solution of 2,5-difluorobenzaldehyde (164 μl, 1.5 mmol), 1-methylbenzimidazole (132 mg, 1 mmol), di-tert-butyl dicarbonate (252 μl, 1.1 mmol) was stirred at room temperature for 20 hours. The precipitate thus formed was collected by filtration, and triturated with hexane, whereby the title compound (310 mg, 83%) was obtained as a white solid.

reactant | 2,5-difluorobenzaldehyde | 1.5 mmol, 164 μl | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | 1-methylbenzimidazole | 1 mmol, 132 mg | CN1C=NC2=C1C=CC=C2 | C8H8N2
reactant | di-tert-butyl dicarbonate | 1.1 mmol, 252 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2-[(tert-Butoxycarbonyloxy)-(2,5-difluorophenyl)methyl]-1-methyl-1H-benzimidazole | C(C)(C)(C)OC(=O)OC(C1=NC2=C(N1C)C=CC=C2)C2=C(C=CC(=C2)F)F | C20H20F2N2O3
